US06310211B1
2-[2-(4-Methoxyphenyl)ethenyl]-8-quinolinol
A mixture of 8-hydroxyquinaldine (9.93 g) and p-anisaldehyde (20 mL) is heated at 180° C. overnight. The reaction is then cooled to room temperature and vacuum distilled. Once the majority of the p-anisaldehyde is distilled off (below 100° C.), the residue remaining in the flask is taken up in hot 95% EtOH. Any undissolved material is filtered off. H2O is added to the EtOH filtrate and the product is obtained as a yellow solid (3.42 g).

reactant | 8-hydroxyquinaldine | 9.93 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | p-anisaldehyde | 20 mL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
product | 2-[2-(4-Methoxyphenyl)ethenyl]-8-quinolinol | 3.42 g | COC1=CC=C(C=C1)C=CC1=NC2=C(C=CC=C2C=C1)O | C18H15NO2
